US07910612B2
5.37 g 1H-Benzotriazole were dissolved in 10.9 ml thionyl chloride. The solution was diluted with dichloromethane to a total volume of 100 ml to obtain a 1.5 M solution of thionylchloride and 1H-Benzotriazole. 600 mg [4-(4-Trifluoromethyl-phenoxy)-phenyl]-methanol were dissolved in 50 ml dichloromethane. 1.86 ml of the above 1.5 M solution of thionylchloride and 1H-Benzotriazole were added. The reaction mixture was stirred at room temperature for three hours. The precipitate was filtered off through a pad of Na2SO4. The filtrate was evaporated in vacuo and the residue purified by flash chromatography on silica gel with the eluents n-heptane:ethyl acetate=1:2=>1:1 to obtain 613 mg 1-Chloromethyl-4-(4-Trifluoromethyl-phenoxy)-benzene.

reactant | [4-(4-Trifluoromethyl-phenoxy)-phenyl]-methanol | 600 mg | FC(C1=CC=C(OC2=CC=C(C=C2)CO)C=C1)(F)F | C14H11F3O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1H-Benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Chloromethyl-4-(4-Trifluoromethyl-phenoxy)-benzene | 613 mg | ClCC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C14H10ClF3O
